US06262045B1
3.2. N,N,5-Trimethyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetamide
A suspension of 1 g (3 mmol) of 5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid and of 0.7 g (4.3 mmol) of 1,1′-carbonylbis-1H-imidazole in 200 ml of tetrahydrofuran is stirred for 2 h at 60° C. The reaction mixture is cooled to 25° C., an excess of liquefied dimethylamine in solution in tetrahydrofuran is added and the reaction mixture is stirred for 72 h at room temperature. It is concentrated under reduced pressure, 300 ml of water are added and the precipitate is collected by filtration, washed with water and with ether and recrystallized from propan-2-ol. 0.75 g (2 mmol) of solid is isolated.

reactant | 5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 3 mmol, 1 g | CN1C2=C(C=3C=CC=CC13)C(=NN(C2=O)C2=CC=CC=C2)CC(=O)O | C19H15N3O3
reactant | 1,1′-carbonylbis-1H-imidazole | 4.3 mmol, 0.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N,N,5-Trimethyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetamide | 2 mmol, 0.75 g | CN(C(CC1=NN(C(C=2N(C=3C=CC=CC3C21)C)=O)C2=CC=CC=C2)=O)C | C21H20N4O2
